US09353152B2
2-(2-Bromoacetylamino)benzenearsonic acid (6 g, 17.8 mmol) was dissolved in HBr/MeOH (1:1). NaI (80 mg) was added and the reaction was purged with N2 and cooled to 0° C. SO2 was bubbled through at ca. 4 bubbles/second and after 15 min a white precipitate started to form. SO2 was bubbled through for a further 2.5 h as the reaction was warmed to room temperature. The reaction was purged with N2 for 10 min, and the solid was collected by filtration washing with H2O (×3), ether (×2) to give 1.35 g of 2-(2-bromoacetylamino)benzenearsonous acid. A further 0.25 g was obtained from the initial filtrate. Total yield (1.60 g, 28%).

reactant | 2-(2-Bromoacetylamino)benzenearsonic acid | 17.8 mmol, 6 g | BrCC(=O)NC1=C(C=CC=C1)[As](O)(=O)O | C8H9AsBrNO4
reactant | NaI | 80 mg | [Na+].[I-]
solvent | HBr MeOH | Br.CO
product | 2-(2-bromoacetylamino)benzenearsonous acid | 1.35 g | BrCC(=O)NC1=C(C=CC=C1)[As](O)O | C8H9AsBrNO3
